US07863298B2
Preparation of 3-(4-{4-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]-piperidin-4-yl}-2-methylphenoxy)-propane-1,2(S)-diol
To a solution of 1N NaOH (8 mL) in MeOH (2 mL) was added 1-(4-{4-[2(S),3-dihydroxy-propoxy]-3-methylphenyl}-4-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]piperidin-1-yl)ethanone (30 mg, 0.058 mmol). The reaction mixture was heated at 80° C. for 16 h, cooled, acidified with 1N HCl (8-9 mL), and washed with EtOAc. The aqueous layer was lyophilized and the crude material was purified by reverse-phase HPLC (C18 column), eluting with 0.05% TFA in MeCN—H2O (1:9 to 9:1) to provide the title compound (8.2 mg, 24%) as its TFA salt: 1H-NMR (DMSO-d6) δ 8.31 (2H, br s), 7.00 (4H, m), 6.78 (2H, app t), 4.70-4.90 (2H, m), 4.56-4.66 (1H, m), 3.88-4.04 (2H, m), 3.70-3.86 (3H, m), 3.00 (4H, br s), 2.47 (4H, br s), 2.12 (3H, s), 2.11 (3H, s), 2.09 (1H, br s), 0.91 (9H, s); MS(ESI): 472 (MH+).

reactant | NaOH | 1N, 8 mL | [OH-].[Na+]
reactant | 1-(4-{4-[2(S),3-dihydroxy-propoxy]-3-methylphenyl}-4-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]piperidin-1-yl)ethanone | 0.058 mmol, 30 mg | O[C@H](COC1=C(C=C(C=C1)C1(CCN(CC1)C(C)=O)C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C)CO | C30H43NO6
reactant | HCl | 1N, 8-9 mL | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
product | 3-(4-{4-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]-piperidin-4-yl}-2-methylphenoxy)-propane-1,2(S)-diol | 8.2 mg, 24% | OC(COC1=C(C=C(C=C1)C1(CCNCC1)C1=CC(=C(OC[C@H](CO)O)C=C1)C)C)C(C)(C)C | C28H41NO5
